US06559162B2
(iii) Benzyl (2R)-3-(4-Cyanophenoxy)-2-hydroxypropylcarbamate
A mixture of 4{[(2R)-3-amino-2-hydroxypropyl]oxy}benzonitrile (see step (ii) above; 3.4 g, 17.7 mmol), TEA (2.69 g, 26.6 mmol) and CHCl3 (20 mL) was cooled to 0° C. before N-(benzyloxycarbonyloxy)succinimide (4.86 g, 19.5 mol) in CHCl3 (15 mL) was added slowly. The mixture was allowed to reach rt, and was stirred at that temperature overnight. The solvent was evaporated to give a residue that was dissolved in DCM. This solution was washed with water and brine and then dried (Na2SO4). Evaporation of the solvent gave 5.79 g (100%) of the sub-title compound.

reactant | 4{[(2R)-3-amino-2-hydroxypropyl]oxy}benzonitrile | NC[C@H](COC1=CC=C(C#N)C=C1)O | C10H12N2O2
reactant | N-(benzyloxycarbonyloxy)succinimide | 19.5 mol, 4.86 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Benzyl (2R)-3-(4-Cyanophenoxy)-2-hydroxypropylcarbamate | 5.79 g, 100% | C(#N)C1=CC=C(OC[C@@H](CNC(OCC2=CC=CC=C2)=O)O)C=C1 | C18H18N2O4
